Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bilateral leg swelling, jaundice
 
Major Surgical or Invasive Procedure:
EGD (___) - esophageal varices, portal HTN gastropathy
Dx Paracentesis (___)
___ Dx/Tx Paracentesis (___)
Colonoscopy (___)
 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with history of 
etoh abuse, anxiety, depression who presents with bilateral leg 
swelling. Patient reports worsening bilateral lower extremity 
swelling. He has also noticed yellowing of skin and eyes over 
the past two days. He denies any chest pain, SOB, fevers, denies 
any hematemesis, melena, RBPR. Patient has not taken any of his 
medication since ___, and has been living on the streets and 
drinking every day.  
 Patient drinks 6 40oz beers a day. Last drink three hours PTA. 
No smoking, no other illicits.  
 In the ED, initial vitals: 98.8 98 138/84 18 98RA  
 Exam notable for:  
 jaundiced, sclera icteric  
 abdomen distended  
 ___ pitting edema in b/l ___ edema, no warmth erythema  
 Labs notable for:  
 WBC 7.9, H/H 11.3/ 32.2, Na 123, BUN 5 Cr 0.5, AST:ALT 209:66, 
T bili 16.9 alk phos 95 albumin 2.5, lactate 2.0  
 Imaging: RUS showed biliary sludge, evidence of cirrhosis, 
patent portal vein attempted diagnositic tap, mild amount of 
ascites but no safe pocket was found.  
 
 On transfer, vitals were: 99.7 89 106/69 17 97% RA  
 On arrival to the floor, pt reports improvement in sx. Reports 
continued b/l ___ swelling.  
 
 Review of systems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath, or wheezing. 
Denies chest pain, chest pressure, palpitations, or weakness. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
or changes in bowel habits. Denies dysuria, frequency, or 
urgency. Denies arthralgias or myalgias. Denies rashes or skin 
changes.  
 
Past Medical History:
1) EtOH abuse
2) Hypertension
3) Depression
 
Social History:
___
Family History:
Father and multiple uncles committed suicide secondary to 
alcohol use. Mother alive at ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
#ERROR!
 Vitals: 99.5 ___ 19 98%RA  
 wt 80.95  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, mildy distended, bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. B/l 
2+ pitting edema  
 SKIN: No gross rashes apparent  
 NEURO: AAOx3  

DISCHARGE PHYSICAL EXAM:
#ERROR!
VS:  Tmax 100.0  120/75 (105-120/62-75) 73 18  100% on RA 
I/Os I/2930 O/200+BR, 2x BMs
GEN: NAD, AAOx3, pleasant, conversational
HEENT: NCAT, MMM, scleral icterus
CV: RRR, S1+S2, No MRG
RESP: mild Rt apical rhonchi, no w/c/r
ABD: soft, NT, +BS, mild distention
EXT: WWP, increased edema ___ b/l
NEURO: tremulous, no asterixis
SKIN: jaundiced
 
Pertinent Results:
ADMISSION LABS:
#ERROR!
___ 09:48PM BLOOD WBC-7.9# RBC-3.06* Hgb-11.3* Hct-32.2* 
MCV-105*# MCH-36.9* MCHC-35.1 RDW-15.6* RDWSD-60.7* Plt ___
___ 09:48PM BLOOD Neuts-73.0* Lymphs-12.1* Monos-12.7 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-5.80# AbsLymp-0.96* 
AbsMono-1.01* AbsEos-0.02* AbsBaso-0.02
___ 09:48PM BLOOD ___ PTT-32.6 ___
___ 09:48PM BLOOD Glucose-98 UreaN-5* Creat-0.5 Na-123* 
K-4.0 Cl-93* HCO3-24 AnGap-10
___ 09:48PM BLOOD ALT-66* AST-209* AlkPhos-95 TotBili-16.9*
___ 09:48PM BLOOD Albumin-2.5* Calcium-8.1* Phos-2.1* 
Mg-1.8
___ 09:48PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:54PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-MOD Urobiln-NEG pH-6.5 Leuks-NEG

MICROBIOLOGY:
#ERROR!
Blood Cultures (___): Neg
Blood Cultures (___):  Blood Culture, Routine (Final 
___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST
Urine Cultures (___): Neg
Urine Cultures (___): URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    10,000-100,000 
ORGANISMS/ML
Peritoneal Cultures (___): Neg
Stool C. Diff (___): Neg

IMAGING:
#ERROR!
LIVER OR GALLBLADDER US (SINGLE ORGAN)Study Date of ___
IMPRESSION:
1. Biliary sludge.  No gallstones.  Pericholecystic fluid, 
expected in the setting of ascites.  Mild diffuse gallbladder 
wall thickening.  No sonographic ___.  Overall, findings 
are not consistent with acute cholecystitis.
2. Nodular hepatic contour and coarsened hepatic echotexture, 
suggestive of cirrhosis.  No focal liver mass.
3. Patent portal vein. Small amount of ascites. No splenomegaly.

CHEST (PORTABLE AP)Study Date of ___
In comparison with the study of ___, there are lower lung 
volumes. Cardiac silhouette remains at the upper limits of 
normal or mildly enlarged. No evidence of vascular congestion, 
pleural effusion, or acute focal pneumonia.

CHEST (PA & LAT)Study Date of ___
New, partial, right middle lobe collapse can possibly caused by 
pneumonia or airway obstruction

CHEST (PA & LAT)Study Date of ___
Heart size and mediastinum are stable.  Right basal atelectasis 
present, unchanged.  Lungs are overall clear otherwise.  There 
is no evidence of pneumonia.  There is no evidence of 
pneumothorax or pleural effusion.

CHEST (PORTABLE AP)Study Date of ___
The new feeding tube projects with its tip over the 
gastroesophageal junction. The device should be advanced by 
approximately 5-10 cm.  No complications, notably no 
pneumothorax.  Unchanged moderate cardiomegaly with platelike 
atelectasis at the right lung bases.

PARACENTESIS DIAG/THERAP W IMAGING Study Date of ___
Uncomplicated diagnostic and therapeutic paracentesis via a 
right lower quadrant approach yielding 1.8 L of translucent, 
straw-colored ascites fluid. Specimen to laboratory per 
referring physician.

ENDOSCOPY ___   IMPRESSION:
Varices at the lower third of the esophagus
Friability, erythema and mosaic appearance in the whole stomach 
compatible with Portal hypertensive gastropathy
Ulcer in the duodenal bulb
Erythema in the duodenum compatible with duodenitis
Post pyloric feeding tube was placed under direct visulization 
to length at 110cm secured through left nare.
Otherwise normal EGD to third part of the duodenum

COLONOSCOPY ___
IMPRESSION:
Stool in the whole colon
Large internal hemorrhoids
Diverticulosis of the ascending colon and sigmoid colon
Otherwise normal colonoscopy to cecum
RECOMMENDATIONS:
Due to the poor bowel prep, this colonoscopy is not considered 
adequete for colon cancer screening.
follow up with hepatology team

DISCHARGE LABS:
#ERROR!

___ 05:20AM BLOOD WBC-10.7* RBC-2.76* Hgb-9.9* Hct-29.6* 
MCV-107* MCH-35.9* MCHC-33.4 RDW-15.6* RDWSD-61.1* Plt Ct-96*
___ 05:20AM BLOOD Plt Ct-96*
___ 05:20AM BLOOD ___ PTT-60.8* ___
___ 05:20AM BLOOD Glucose-139* UreaN-13 Creat-0.5 Na-128* 
K-3.7 Cl-94* HCO3-23 AnGap-15
___ 05:20AM BLOOD ALT-46* AST-92* AlkPhos-153* 
TotBili-25.3*
___ 05:20AM BLOOD Calcium-8.3* Phos-2.4* Mg-1.___rief Hospital Course:
#ERROR!
This is a ___ with history of alcohol abuse, depression, anxiety 
who presented with bilateral lower extremity edema, elevated 
LFTs, jaundice concerning for acute alcoholic hepatitis in 
setting of cirrhosis.

Active Issues:
#ERROR!
# Acute Alcoholic Hepatitis in setting of cirrhosis:  
Patient has a history of EtOH abuse, recent increase in EtOH 
intake with evidence of possible cirrhosis on ultrasound (Child 
___ class C, c/b Grade I esophageal varices) and elevated 
LFTs/bilirubin. Steroids were started for high discriminant 
function, but they were eventually stopped due to lack of 
response. Pt had EGD done showing grade 1 varices and portal 
hypertensive gastropathy. The patient was eventually treated 
with supportive therapy including IV albumin, and tube feeding.

#Etoh Abuse:  
Patient has a history of ETOH abuse, last drink was 3 hours 
prior to presentation. Pt presented w/increased tremors, 
diarrhea, and agitation though this diminished rapidly, only 
required 1x dose 5mg diazepam while withdrawing, DC'd CIWA on 
___. Pt continued on thiamine, folic acid, multivitamin. Pt 
was seen by SW, unable to go to daughter's house, was discharged 
to rehab.

#Hyponatremia:  
Na was 123 on presentation with evidence of bilateral lower 
extremity swelling which improved after albumin, nutrition. This 
was suspected to be secondary to intravascular volume depletion 
and extravascular overload, most likely due to cirrhosis. Urine 
lytes were most consistent with decreased effective arterial 
blood volume. Hyponatremia improved w/albumin, diuretics, and 
improved nutrition. 

# BRBPR: 
Observed to have frank blood in stool. Unclear etiology but pt 
w/o screening colonoscopy and ___ yo though bleeding pattern is 
most suggestive of hemorrhoids. Pt had a colonoscopy which 
showed internal hemorrhoids that were not actively bleeding and 
diverticula, although there was large amounts of stool found in 
the colon,  and therefore pt will require repeat colonoscopy for 
colon cancer screening as an outpatient. 
 
#Homelessness: 
Pt will be DC'd to ___ with hopes that will be able to have more 
stable living situation after DC from ___. Pt unable to go to 
daughter's home, though she is involved in his care and his HCP.
 
#Depression: 
Took increased EtOH recently ___ to feelings of inc depression. 
Not feeling suicidal, denies SI. Pt with better mood after 
speaking with his daughter on ___. Is not currently taking any 
medications before or during admission.

Transitional issues:
#ERROR!
-Pt will require Hepatitis B Vaccine, not vaccinated per 
serology
-Pt is off all of diuretics due to hyponatremia, so this should 
be re-evaluated as an outpatient.
- Pt off of Nadolol but may require it as an outpatient 
eventually.
-Pt will be DC'd with tube feeds which are necessary ___ to poor 
nutrition
-Pt will need repeat colonoscopy as outpatient for colon cancer 
screening, as pt's bowel prep for this colonoscopy was 
insufficient for this purpose
-Pt will need to be on Ciprofloxacin 500 mg daily for SBP 
prophylaxis indefinitely
-Pt also started on ursodiol, lactulose, thiamine, folic acid, 
and multivitamin due to his cirrhosis.

# Communication: HCP: ___ (daughter): ___
# Code: Full Code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
2. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
3. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
4. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth once a day Disp 
#*60 Tablet Refills:*0
5. Nadolol 20 mg PO DAILY 
RX *nadolol 20 mg 1 tablet(s) by mouth once a day Disp #*60 
Tablet Refills:*0
6. PredniSONE 40 mg PO DAILY 
7. Spironolactone 100 mg PO DAILY 
8. Sulfameth/Trimethoprim DS 1 TAB PO DAILY Duration: 24 Days 
9. Furosemide 40 mg PO DAILY 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Acute Alcoholic Hepatitis
Alcoholic Cirrhosis
Alcohol abuse
Hyponatremia

SECONDARY:
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for your jaundice and puffy legs 
after you drank a lot of alcohol for a number of days. Your 
liver was found to be very damaged and we started you on 
steroids to help your liver, but eventually stopped these. We 
were also able to place a feeding tube so that we could give you 
adequate nutrition to help repair your liver. We also treated 
you for an infection in your abdomen. You had an endoscopy which 
showed no severe bleeding. You had some signs of a little 
bleeding in your stool, so you got a colonoscopy to find out the 
source of your bleeding, which was most likely due to internal 
hemorrhoids. However, you will eventually need another 
colonoscopy to rule out colon cancer, as there was too much 
stool in your bowels to properly evaluate for colon cancer.

We hope you get better at the facility you are going to and we 
hope you are able to avoid alcohol completely in the future.

It was a pleasure taking care of you!

Your ___ Liver Team
 
Followup Instructions:
___